US06410745B1
In a 500 ml four-necked flask fitted with gas inlet tube and gas outlet tube, internal thermometer and reflux condenser with in each case two safety wash bottles connected upstream and downstream, 34.1 g (0.5 mol.) of pyrazole and 21.0 g (0.5 mol.) of cyanamide are dissolved in 330 ml of dimethoxyethane. At 80° C., dry hydrogen chloride gas is introduced into the reaction solution at a rate of about 15 l/h for about 50 minutes. The solution is then allowed to cool and the precipitated solid is removed by filtration. The product obtained is dried under reduced pressure (100 mbar, 80° C.) to give 1H-pyrazole-1-carboxamidine hydrochloride in the form of a colorless, finely crystalline solid. Yield: 70.6 g (96%), melting point: 160 to 168° C. (literature: 165 to 166° C.) 13C-NMR (DMSO-d6) δ 152.3, 146.0, 131.5, 111.9.

reactant | pyrazole | 0.5 mol, 34.1 g | N1N=CC=C1 | C3H4N2
reactant | cyanamide | 0.5 mol, 21.0 g | N#CN | CH2N2
reactant | hydrogen chloride | Cl | ClH
solvent | dimethoxyethane | 330 ml | C(OC)COC | C4H10O2
product | 1H-pyrazole-1-carboxamidine hydrochloride | Cl.N1(N=CC=C1)C(=N)N | InChI=1S/C4H6N4.ClH/c5-4(6)8-3-1-2-7-8;/h1-3H,(H3,5,6);1H
